US04409214
A mixture of 2-(2-methanesulfonamidothiazol-4-yl)-acetic acid (2.6 g), N,N-dimethylformamide (0.88 g) and phosphorus oxychloride (1.85 g) in ethyl acetate (10 ml) and tetrahydrofuran (20 ml) was stirred under ice-cooling for 30 minutes. This solution was added to a solution of benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride (4.3 g) and trimethylsilylacetamide (7.9 g) in ethyl acetate (50 ml) at -20° C. with stirring, and the stirring was continued at -20° to 0° C. for 2 hours. After addition of water, tetrahydrofuran and ethyl acetate, the reaction mixture was adjusted to pH 7 with a saturated aqueous solution of sodium bicarbonate. The precipitated substance was collected by filtration to give benzhydryl 7-[2-(2-methanesulfonamidothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate (3.6 g). After addition of ethyl acetate tetrahydrofuran to the filtrate, the organic layer was separated out, washed with an aqueous solution of sodium chloride and then dried over anhydrous magnesium sulfate, followed by evaporation to recover the same product (0.9 g). Total yield: 4.5 g.

reactant | 2-(2-methanesulfonamidothiazol-4-yl)-acetic acid | 2.6 g | CS(=O)(=O)NC=1SC=C(N1)CC(=O)O | C6H8N2O4S2
reactant | phosphorus oxychloride | 1.85 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride | 4.3 g | Cl.NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | trimethylsilylacetamide | 7.9 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 0.88 g | CN(C=O)C | C3H7NO
product | benzhydryl 7-[2-(2-methanesulfonamidothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate | 3.6 g | CS(=O)(=O)NC=1SC=C(N1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H26N4O6S3
